US07465815B2
2-(2-Hydroxy-1-(4-bromophenyl)ethyl)-3,5,6-trimethylphenol
Using 3-(4-bromophenyl)-4,6,7-trimethyl-1-benzofuran-2 (3H)-one obtained in Reference Example 229, the title compound was synthesized in the same manner as in Reference Example 8. Yield 93%. Melting point: 114-115° C. (ethyl acetate-hexane).

reactant | 3-(4-bromophenyl)-4,6,7-trimethyl-1-benzofuran-2 (3H)-one | BrC1=CC=C(C=C1)C1C(OC2=C1C(=CC(=C2C)C)C)=O | C17H15BrO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-(2-Hydroxy-1-(4-bromophenyl)ethyl)-3,5,6-trimethylphenol | Yield 93% | OCC(C1=CC=C(C=C1)Br)C1=C(C(=C(C=C1C)C)C)O | C17H19BrO2
